US08912188B2
To a solution of 5-(trifluoromethyl)-1-benzofuran (5.0 g, 26.86 mmol) in dry tetrahydrofuran (120 mL) were added tetramethylethylenediamine (3.74 g, 32.2 mmol). The solution was kept below −60° C. under nitrogen, while n-BuLi (12.8 mL, 32.2 mmol, 2.5 M solution in hexane) was added dropwise. The solution was warmed to −10° C. over 45 min and stirred at this temperature for another 30 min. The mixture was cooled again below −60° C. followed by dropwise addition of triisopropyl borate (10.0 g, 53.19 mmol). After warming to room temperature the mixture was quenched with hydrochloric acid (70 mL, 2N) and stirred for 1 h. The alkaline aqueous layer was brought to pH 5 and extracted with ethyl acetate (3×80 mL). All organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give [5-(trifluoromethyl)-1-benzofuran-2-yl]boronic acid (2.0 g, crude) as light yellow oil; which was used for the next step without further purification.

reactant | 5-(trifluoromethyl)-1-benzofuran | 26.86 mmol, 5.0 g | FC(C=1C=CC2=C(C=CO2)C1)(F)F | C9H5F3O
reactant | tetramethylethylenediamine | 32.2 mmol, 3.74 g | CN(CCN(C)C)C | C6H16N2
reactant | n-BuLi | 32.2 mmol, 2.5 M, 12.8 mL | [Li]CCCC
reactant | triisopropyl borate | 53.19 mmol, 10.0 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | [5-(trifluoromethyl)-1-benzofuran-2-yl]boronic acid | 2.0 g | FC(C=1C=CC2=C(C=C(O2)B(O)O)C1)(F)F | C9H6BF3O3
